US06620916B1
The synthesis of Tyr derivative for iodo-labeling was conducted by the method of Tamura et al. (T. Tamura et al., Anal. Biochem. 216, 335-344 (1994)) (refer to FIG. 4.). That is, 30 μmols of (Gal)3 or (GalNAc)3 were dissolved in 3.6 ml of dimethylformamide, and 1.13 g of Boc-Tyr-NTH (supplied by Sigma) were added thereto. The solution was stirred at 50° C. for 5 hours. After the reaction solution was cooled, 1 N NaOH was added thereto, and a precipitate was removed through centrifugation. The supernatant was added to a Sephadex G-25 column (supplied by Pharmacia) which had been equilibrated with 1% (w) of pyridine and acetic acid to obtain a Tyr-Boc derivative fraction monitored at 280 nm. The fraction obtained was freeze-dried, and then dissolved again in a 0.1% TFA solution. The solution was purified through reversed-phase HPLC using an “Inertsil ODS-2” column (4.6×150 mm, supplied by GL Science Inc.) to form 14.7 mg of a Tyr-Boc derivative ((Gal)3-Tyr-Boc) and 28.9 mg of a Tyr-Boc derivative ((GalNAc)3-Tyr-Boc) having a peak purity of 90% or more. The structures of the products were identiried through electrospray ionization mass spectrometry (ESI-MS).

reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | (Gal)3 | 30 μmols | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)O[C@H]2[C@H]([C@H](O[C@H]([C@@H]2O)O[C@H]3[C@H](OC([C@@H]([C@H]3O)O)O)CO)CO)O)O)O)O)O | C18H32O16
reactant | Boc-Tyr | 1.13 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OC(C)(C)C | C14H19NO5
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dimethylformamide | 3.6 ml | CN(C=O)C | C3H7NO
product | Tyr-Boc | N[C@@H](CC1=CC=C(C=C1)O)C(=O)C(=O)OC(C)(C)C | C14H19NO4
